US06071899
N-[6-(4-Fluorophenyl)hexyl]-[4-(3-allyloxycarbonylpropyl)sulphinyl -2-oxo-azetidin-1-yi]-acetamide (Diastereomer 1)
Treatment of N-[6-(4-Fluorophenyl)hexyl]-[4-(3-allyloxycarbonylpropyl)thio-2-oxo-azetidin-1-yl]-acetamide with mCPBA as described for Example 17 gave thetitle compound as a white crystalline solid, m.p. 95-96° C., 21% yield

reactant | N-[6-(4-Fluorophenyl)hexyl]-[4-(3-allyloxycarbonylpropyl)thio-2-oxo-azetidin-1-yl]-acetamide | FC1=CC=C(C=C1)CCCCCCNC(CN1C(CC1SCCCC(=O)OCC=C)=O)=O | C24H33FN2O4S
reactant | mCPBA | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
product | N-[6-(4-Fluorophenyl)hexyl]-[4-(3-allyloxycarbonylpropyl)sulphinyl -2-oxo-azetidin-1-yi]-acetamide | 21% yield | FC1=CC=C(C=C1)CCCCCCNC(CN1C(CC1S(=O)CCCC(=O)OCC=C)=O)=O | C24H33FN2O5S
